US08614206B2
To a solution of 5-azido-1-(1-methyl-4-nitro-1H-pyrazol-5-yl)azepan-4-ol (420 mg, 1.49 mmol) in dry DMF (15 mL) cooled to 0° C. was added sodium hydride (60% in mineral oil, 90 mg, 2.24 mmol). After stirring for 15 min, iodomethane (0.14 mL, 2.24 mmol) was added and the reaction mixture was allowed to warm to room temperature and stirred for 1 hr. Water (20 mL) was added and the mixture was extracted with EtOAc (150 mL). The organic layer was washed with water (6×30 mL) and brine (20 mL), separated, dried over MgSO4, and concentrated under reduced pressure. Purification via silica gel column chromatography gave 4-azido-5-methoxy-1-(1-methyl-4-nitro-1H-pyrazol-5-yl)azepane as a yellow oil (350 mg). A solution of this oil (350 mg, 1.19 mmol) in THF/water (15 mL/3 mL) was treated with triphenylphosphine (311 mg, 1.19 mmol) and the reaction mixture was heated at 60° C. behind a blast screen for 18 hr. Water (2 mL) was added and the mixture was extracted with EtOAc (2×50 mL) The combined organic layers were dried over MgSO4 and concentrated under reduced pressure. The resulting oil was triturated in Et2O, the resulting solid was filtered off and the filtrate concentrated under reduced pressure to give a yellow oil. To a solution of this oil (319 mg, 1.19 mmol) in dry DCM (10 mL) at 0° C. was added a solution of di-tert-butyl-dicarbonate (310 mg, 1.42 mmol) in DCM (10 mL) and DIPEA (1.0 mL, 5.93 mmol). The reaction mixture was allowed to warm to room temperature and stirred for 72 hr. Water (20 mL) was added and the mixture extracted with DCM (100 mL). The organic layer was separated, dried over MgSO4 and concentrated under reduced pressure. Purification via silica gel column chromatography (40-50% EtOAc/isohexane) gave tert-butyl 5-methoxy-1-(1-methyl-4-nitro-1H-pyrazol-5-yl)azepan-4-ylcarbamate as a yellow oil (355 mg, 64% over three steps). 1H NMR (400 MHz, CDCl3) δ 8.02 (s, 1H), 5.14 (d, J=8.9 Hz, 1H), 4.00-3.90 (m, 1H), 3.78 (s, 3H), 3.68-3.60 (m, 1H), 3.48 (t, J=12.6 Hz, 1H), 3.39 (s, 3H), 3.33-3.23 (m, 1H), 3.19-3.11 (m, 1H), 3.04-2.95 (m, 1H), 2.25-2.06 (m, 2H), 1.88-1.76 (m, 2H), 1.45 (s, 9H).

reactant | 5-azido-1-(1-methyl-4-nitro-1H-pyrazol-5-yl)azepan-4-ol | 1.49 mmol, 420 mg | N(=[N+]=[N-])C1C(CCN(CC1)C1=C(C=NN1C)[N+](=O)[O-])O | C10H15N7O3
reactant | sodium hydride | 2.24 mmol, 90 mg | [H-].[Na+]
reactant | iodomethane | 2.24 mmol, 0.14 mL | IC | CH3I
reactant | Water | 20 mL | O | H2O
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | 4-azido-5-methoxy-1-(1-methyl-4-nitro-1H-pyrazol-5-yl)azepane | 350 mg | N(=[N+]=[N-])C1CCN(CCC1OC)C1=C(C=NN1C)[N+](=O)[O-] | C11H17N7O3
